US07977477B2
To a solution of 1-methyl-4-piperidinemethanol (0.566 g, 4.3 mmol) in THF (25 ml) at 0° C. was added, portion wise, 60% NaH (0.63 g, 15.48 mmol) and the mixture stirred for 15 mins. N-(5-Fluoro-4-methoxy-2-nitro-phenyl)-acetamide [U.S. Pat. No. 4,431,807] (1 g, 4.38 mmol) in THF (40 ml) was added to reaction, which was stirred at RT for 30 mins followed by heating at 50° C. for 1 hour. The reaction was quenched with water and then extracted with EtOAc twice, the organic portion was washed with brine, dried over MgSO4, filtered and reduced in vacuo to yield N-[4-methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-2-nitro-phenyl]-acetamide (1.34 g), (LC/MS (acidic method): Rt 1.84, [M+H]+ 338)

reactant | 1-methyl-4-piperidinemethanol | 4.3 mmol, 0.566 g | CN1CCC(CC1)CO | C7H15NO
reactant | NaH | 15.48 mmol, 0.63 g | [H-].[Na+]
reactant | N-(5-Fluoro-4-methoxy-2-nitro-phenyl)-acetamide | FC=1C(=CC(=C(C1)NC(C)=O)[N+](=O)[O-])OC | C9H9FN2O4
reactant | THF | 25 ml | C1CCOC1 | C4H8O
reactant | THF | 40 ml | C1CCOC1 | C4H8O
product | N-[4-methoxy-5-(4-methyl-piperidin-1-ylmethoxy)-2-nitro-phenyl]-acetamide | 1.34 g | COC1=CC(=C(C=C1OCN1CCC(CC1)C)NC(C)=O)[N+](=O)[O-] | C16H23N3O5
